US08097610B2
Preparation of 4-methoxycarbonyl methyl-3,5-dimethyl piperazine-1-carboxylic acid t-butyl ester
A mixture of 3,5-dimethyl carbonyl piperazine-1-carboxylic acid t-butyl ester (18.7 g), potassium carbonate (14.5 g), bromo acetic acid methyl ester (14.7 g), DMF (90 mL) was stirred at 60° C. for 3 hours. To the reaction solution was added water and extracted with ethyl acetate. The organic layer was washed with water and brine, and dried over magnesium sulphate. The solvent was evaporated under reduced pressure to give the title compound. This compound was provided to the next reaction without further purification.

reactant | 3,5-dimethyl carbonyl piperazine-1-carboxylic acid t-butyl ester | 18.7 g | C(C)(C)(C)OC(=O)N1C(C(NC(C1)C)C)=C=O | C12H20N2O3
reactant | potassium carbonate | 14.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromo acetic acid methyl ester | 14.7 g | COC(CBr)=O | C3H5BrO2
reactant | DMF | 90 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-methoxycarbonyl methyl-3,5-dimethyl piperazine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C(C(N(C(C1)C)C(=O)OC)C)C | C14H26N2O4
